US09376442B2
4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxyli c acid
Ethyl 4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate from example D.b1 (15.28 g; 29.0 mmol) is dissolved in 1,4-dioxane (150 mL) and aqueous LiOH (prepared from 1.04 g; 43.5 mmol; and 75 mL of water). The stirred reaction mixture is heated to 80° C. until the starting material is consumed according to LC-MS. The mixture is concentrated under reduced pressure, and diluted with water. The product is precipitated by addition of 2M citric acid to adjust pH to 5, isolated by suction filtration, washed with several small portions of water and dried in high vacuo at 40° C. to yield 13.55 g of the title compound as pale yellow solid.

reactant | Ethyl 4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)OCC | C27H35N3O6Si
reactant | LiOH | 43.5 mmol, 75 mL, 1.04 g | [Li+].[OH-]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxyli c acid | 13.55 g | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C25H31N3O6Si
